US07816387B2
(2R,3S)-3-{[3-[Methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]-amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid
The (2R,3S)-3-{[3-[methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid methylester obtained in Reference Example 26 1.79 g (2.75 mmol) was dissolved in methanol 6 mL and thereto was added 5N aqueous sodium hydroxide solution 1.10 mL under ice-cooling and the mixture was stirred at room temperature for 6 hours. After distillating methanol off, the mixture was washed with ether. The aqueous layer was adjusted with diluted hydrochloric acid to pH 3 under ice-cooling and extracted with chloroform. The organic layer was washed with an aqueous saturated sodium chloride solution and dried on magnesium sulfate, filtered and concentrated to give 1.74 g (2.73 mmol) of the title compound (yield: 99%).

reactant | (2R,3S)-3-{[3-[methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid methylester | COC([C@@H]([C@H](CC1=CC=CC=C1)NC(C1=CC(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC=C1)N(S(=O)(=O)C)C)=O)OC1OCCCC1)=O | C34H41N3O8S
reactant | sodium hydroxide | 5N, 1.10 mL | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | (2R,3S)-3-{[3-[Methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]-amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid | 2.73 mmol, 1.74 g, yield: 99% | CN(C=1C=C(C(=O)N[C@H]([C@H](C(=O)O)OC2OCCCC2)CC2=CC=CC=C2)C=C(C1)C(=O)N[C@H](C)C1=CC=CC=C1)S(=O)(=O)C | C33H39N3O8S
